US08471005B2
Into a 30 ml, vial, [A] 3-(2-Methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamine (0.242 g, 0.00110 mol), [B] 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (0.130 g, 0.000500 mol), and N-Methylpyrrolidinone (0.39 mL, 0.0041 mol) were added. The reaction mixture was heated at 135° C. for 7 hours. The reaction mixture was purified via ISCO column chromatography with EtOAc and methanol as eluant (5 to 20% methanol). The collected fractions afforded (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[3-(2-methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl]-amine as a yellow solid (130 mg, 65%). NMR 1H (CDCl3-d)-8.57 (s, 1H), 7.54 (s, 1H), 7.48 (dd, 1H, JJ=1.96, 6.04 Hz), 7.69 (s, 1H), 7.09 (d, 1H, J=8.04 Hz), 6.93 (s, 1H), 6.78 (d, 1H, J=4.72 Hz), 6.73 (d, 1H, J=4.72 Hz), 3.54 (t, 2H, J=5.68 Hz), 3.36 (s, 3H), 2.65-3.00 (m, 10H)

reactant | 3-(2-Methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamine | 0.00110 mol, 0.242 g | COCCN1CCC2=C(CC1)C=C(C=C2)N | C13H20N2O
reactant | 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.000500 mol, 0.130 g | BrC1=CC=C2C=NC(=NN21)S(=O)C | C7H6BrN3OS
reactant | N-Methylpyrrolidinone | 0.0041 mol, 0.39 mL | CN1C(CCC1)=O | C5H9NO
product | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[3-(2-methoxy-ethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl]-amine | 130 mg, 65% | BrC1=CC=C2C=NC(=NN21)NC2=CC1=C(CCN(CC1)CCOC)C=C2 | C19H22BrN5O
